US09062015B2
FS606: (1-{1-[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazin-2-yl]piperidin-4-yl}pyrrolidin-3-yl)carbamic acid tert-butyl ester
23 mg (0.22 mmol) of sodium carbonate are added to 50 mg (0.11 mmol) of {1-[1-(4-chloro-1,3,5-triazin-2-yl)piperidin-4-yl]pyrrolidin-3-yl}carbamic acid tert-butyl ester and 45 mg (0.12 mmol) of 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane in 1.5 ml of DMF/DME/methanol/water (1/1/0.9/0.3). The reaction mixture is degassed a number of times, 8 mg (0.017 mmol) of bis(triphenylphosphine)palladium(II) dichloride are added under nitrogen atmosphere, the mixture is treated in an ultrasound bath for 10 min and subsequently irradiated in the microwave at 100° C. for 20 min. The reaction mixture is diluted with methanol, filtered, and the crude product is purified by means of preparative HPLC.

reactant | sodium carbonate | 0.22 mmol, 23 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | {1-[1-(4-chloro-1,3,5-triazin-2-yl)piperidin-4-yl]pyrrolidin-3-yl}carbamic acid tert-butyl ester | 0.11 mmol, 50 mg | C(C)(C)(C)OC(NC1CN(CC1)C1CCN(CC1)C1=NC=NC(=N1)Cl)=O | C17H27ClN6O2
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | 0.12 mmol, 45 mg | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
solvent | DMF DME methanol water | 1.5 ml | CN(C)C=O.COCCOC.CO.O
solvent | methanol | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.017 mmol, 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (1-{1-[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazin-2-yl]piperidin-4-yl}pyrrolidin-3-yl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CN(CC1)C1CCN(CC1)C1=NC=NC(=N1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C31H46N6O2
